US07868030B2
N-[(5-Bromo-1,3-thiazol-2-yl)carbamoyl]-4-methylbenzenesulfonamide
A solution of toluene-4-sulfonylurea isocyanate (2.6 g, 13 mmol) in CH2Cl2 (10 ml) was added slowly to a mixture containing 2-amino-5-bromothiazole hydrochloride (3.4 g, 13 mmol) and triethylamine (5.4 ml, 39 mmol) in CH2Cl2 (60 ml) under an argon atmosphere and stirred overnight at rt. The reaction mixture was concentrated under reduce pressure, diluted with ethyl acetate and washed with NaHCO3 (half sat. 3×), 5% KHSO4/10% K2SO4, water, NaCl sat., dried (MgSO4.2H2O), filtered and concentrated under reduced pressure. Recrystallization from MeOH/water yielded a beige solid: 2.8 g (58%), MS: m/e 376.1 (MH+).

reactant | toluene-4-sulfonylurea isocyanate | 13 mmol, 2.6 g | [N-]=C=O.C1(=CC=C(C=C1)S(=O)(=O)NC(=O)N)C
reactant | 2-amino-5-bromothiazole hydrochloride | 13 mmol, 3.4 g | Cl.NC=1SC(=CN1)Br
reactant | triethylamine | 39 mmol, 5.4 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | N-[(5-Bromo-1,3-thiazol-2-yl)carbamoyl]-4-methylbenzenesulfonamide | BrC1=CN=C(S1)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)C | C11H10BrN3O3S2
